US07148250B2
A solution of 3-(2-Hydroxy-ethyl)-1-(3-methoxycarbonyl-phenyl)-1H-indole-2-carboxylic acid methyl ester (0.41 g, 1.16 mmol), TsCl (0.23 g, 1.22 mmol), triethylamine (0.2 mL, 1.4 mmol) in dichloromethane (10 mL) was stirred at room temperature for 48 h. The solvent was removed under reduced pressure and the residue dissolved in EtOAc. The organic solution was washed with 10% KHSO4, dried over Na2SO4, and purified by silica gel chromatography (hexanes/EtOAc, 1/2) to give 0.37 g of 1-(3-methoxycarbonyl-phenyl)-3-[2-(toluene-4-sulfonyloxy)-ethyl]-1H-indole-2-carboxylic acid methyl ester as a yellow oil (63% yield): 1H NMR (CDCl3, 300 MHz) δ 2.37 (s, 3H), 3.52 (t, J=7.24 Hz, 2H), 3.67 (s, 3H), 3.92 (s, 3H), 4.34 (t, J=7.06, 2H), 7.00 (d, J=8.24 Hz, 1H), 7.17–7.31(m, 4H), 7.44 (d, J=8.02 Hz, 1H), 7.56–7.67(m, 4H), 7.93 (t, J=1.72 Hz, 1H); 8.13 (dt, J=7.82, 1.34 Hz, 1H).

reactant | 3-(2-Hydroxy-ethyl)-1-(3-methoxycarbonyl-phenyl)-1H-indole-2-carboxylic acid methyl ester | 1.16 mmol, 0.41 g | COC(=O)C=1N(C2=CC=CC=C2C1CCO)C1=CC(=CC=C1)C(=O)OC | C20H19NO5
reactant | TsCl | 1.22 mmol, 0.23 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | triethylamine | 1.4 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(3-methoxycarbonyl-phenyl)-3-[2-(toluene-4-sulfonyloxy)-ethyl]-1H-indole-2-carboxylic acid methyl ester | 0.37 g, 63% yield | COC(=O)C=1N(C2=CC=CC=C2C1CCOS(=O)(=O)C1=CC=C(C=C1)C)C1=CC(=CC=C1)C(=O)OC | C27H25NO7S
